US07625932B2
Preparation of 4,4,5,5-tetramethyl-2-(2′-propyl-biphenyl-4-yl)-[1,3,2]dioxaborolane
Add trifluoro-methanesulfonic acid 2′-propyl-bipheny-4-yl ester (1.06 g, 3.0 mmol, prepared in preparation 41), bis(pinacolato)diboron (1.4 g, 5.5 mmol), [1,1-bis(diphenylphospino)-ferrocene]dichloropalladium(II) (0.12 g, 0.15 mmol), and potassium acetate (1.4 g, 15.0 mmol) into DMF, and heat to 80° C. with stirring. After 4 hours, cool the reaction mixture and pour into water. Extract the quenched reaction with ethyl acetate. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound. GC MS: 322.

reactant | trifluoro-methanesulfonic acid 2′-propyl-bipheny-4-yl ester | 3.0 mmol, 1.06 g | C(CC)C1=C(C=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C16H15F3O3S
reactant | bis(pinacolato)diboron | 5.5 mmol, 1.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.0 mmol, 1.4 g | C(C)(=O)[O-].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | [1,1-bis(diphenylphospino)-ferrocene]dichloropalladium(II) | 0.15 mmol, 0.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
solvent | water | O | H2O
product | 4,4,5,5-tetramethyl-2-(2′-propyl-biphenyl-4-yl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=C(C=CC=C1)CCC)C | C21H27BO2
